US05304685
125 g (1 mol) of 80% strength aqueous 2,2-dimethyl-3-hydroxypropanal (crude mixture from the synthesis, reduced to a water content of 20% by distillation), 185 g (0.9 mol) of 2,6-di-t-butylphenol, 12 g (0.11 mol) of 40% strength aqueous dimethylamine and 700 g of methanol are reacted in a stirred autoclave at 180° C. under autogenous pressure of 20-30 bar for 10 h. After the autoclave has cooled and the pressure has been released, 28 g of Raney Ni (0.03 parts based on complete mixture) are added to the reaction mixture and hydrogenation is carried out at 80° C. under 80 bar of hydrogen for 5 h. Workup of the mixture by distillation yields 239 g (91%) of 3-(3,5-di-t-butyl-4-hydroxyphenyl)-2,2-dimethylpropanol (boiling point 142°-145° C.; melting point 84°-86° C.).

reactant | 2,2-dimethyl-3-hydroxypropanal | CC(C=O)(CO)C | C5H10O2
reactant | 2,6-di-t-butylphenol | 0.9 mol, 185 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | dimethylamine | CNC | C2H7N
reactant | hydrogen | [H][H] | H2
catalyst | Ni | [Ni] | Ni
solvent | methanol | 700 g | CO | CH4O
solvent | water | O | H2O
product | 3-(3,5-di-t-butyl-4-hydroxyphenyl)-2,2-dimethylpropanol | 239 g, 91% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CC(CO)(C)C | C19H32O2
